2126-01-23 07:31:00 Physician Resident Progress Note
63F with recent ESBL E. coli UTI and s/p lithotripsy c/b post-procedure
   hypotension
   24 Hour Events:
   Arterial line placed
   Received aggressive fluid resuscitation and placed on levophed and
   vasopressin, now tapering off of pressors
   c/o some persistent R sided abdominal/back discomfort today
 BLOOD CULTURED - At [**2126-1-22**] 11:01 PM
 BLOOD CULTURED - At [**2126-1-22**] 11:02 PM
 MULTI LUMEN - START [**2126-1-22**] 11:22 PM
 ARTERIAL LINE - START [**2126-1-22**] 11:58 PM
 FEVER - 102.5
F - [**2126-1-22**] 09:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-23**] 05:35 AM
   Meropenem 500mg IV q6 Day 2
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other medications:
   Protonix
   Tylenol prn
   Heparin SQ
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, R sided
   Flowsheet Data as of  [**2126-1-23**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.3
C (97.3
   HR: 70 (70 - 81) bpm
   BP: 86/66(70){60/31(37) - 116/74(84)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
    CVP: 14 (12 - 30)mmHg
   Telemetry: Episodes of hypotension to 60
s-70
   Total In:
                                                                  7,861 mL
                                                                  1,330 mL
   PO:
                                   TF:
   IVF:
                                                                  4,061 mL
                                                                  1,330 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,065 mL
   Urine:
                                                                    500 mL
                                                                  1,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,361 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/38/80.[**Numeric Identifier 248**]/23/Units: mEq/L
   Physical Examination
   Lying in bed, no acute distress
   HEENT: Moist mucus membranes
   CV: Regular rate S1 S2 no m/r/g
   Pulm: Crackles bilaterally, no wheezing
   Abd: Soft, +bowel sounds, tender R sided without rigidity or guarding
   Extrem: Warm, 1+ LE edema
   Neuro: Awake and interactive, mentating clearly
   Labs / Radiology
   168 K/uL
   10.2 g/dL
   131 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   30.6 %
   18.8 K/uL
        [image002.jpg]
   Differential N 70 Band 23 L 3 M 0 E 0 Baso 0 Metas 4
   INR 1.4 PTT 40.5
   Cortisol 31.8
   CXR c/w pulmonary edema
   Micro
   [**1-22**] and [**1-23**] blood cultures NGTD, [**1-22**] urine culture NGTD
   [**1-15**] urine ESBL E. Coli S to gentamicin, meropenem, nitrofurantoin,
   zosyn (should not use in ESBL), tobramycin
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
   WBC
   18.8
   Hct
   30.6
   Plt
   168
   Cr
   0.7
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   Other labs: PT / PTT / INR:15.3/40.5/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, Lactic Acid:2.2 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION and Sepsis
   Suspect septic shock secondary to ESBL E coli which was recently
   isolated from her urine. Should be sensitive to the meropenem which she
   is currently receiving. Hemodynamic stability improving, pressor
   requirement decreasing. WBC with large increase today and bandemia. Was
   leukopenic yesterday
 could have been due to infection, but also
   possibly due to antibiotics she had received prior to her lithotripsy.
   Given ureteral stenting procedure consider also RP bleed
 but
   hematocrit stable. Received large volume of IVF resuscitation yesterday
   with increased O2 requirement correspondingly. Perfusing adequately
   good urine output, mentating.
   --Continue meropenem, reculture if febrile. Given surgical procedure,
   could add vancomycin if she decompensates
   --If abdominal pain worsens consider CT abdomen r/o bleed post-surgery,
   follow Hct
   --Will try to minimize additional fluid boluses today as possible, wean
   pressors as tolerated. Goal MAP >65. Will tolerated higher CVP (15-20)
   given history of pulmonary hypertension on prior [**Year (4 digits) **]
 NEPHROLITHIASIS (KIDNEY STONES)
   Follow up with GU. Toradol and acetaminophen for pain as needed today.
   Follow up GU recommendations.
 h/o cardiac disease with pacer, unknown etiology
   Consider repeating [**Last Name (LF) **], [**First Name3 (LF) 178**] need cardiology outpatient followup
   ICU Care
   Nutrition: NPO
   Glycemic Control:  n/a
   Lines:
   Multi Lumen - [**2126-1-22**] 11:22 PM
   18 Gauge - [**2126-1-22**] 11:24 PM
   20 Gauge - [**2126-1-22**] 11:25 PM
   Arterial Line - [**2126-1-22**] 11:58 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  No HCP. [**Name (NI) **] involved.  [**Name2 (NI) 431**]: cell: [**Telephone/Fax (1) 432**] home:
   [**Telephone/Fax (1) 433**]
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Addendum: AM cortisol >30 today, cosyntropin test performed. Will
   follow up cortisol levels from this test. Ok to defer stress dose
   steroids pending results as patient
s pressor requirements are
   decreasing.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2126-1-23**] 11:43 ------

2126-01-23 09:33:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2126-1-22**] 11:01 PM
 BLOOD CULTURED - At [**2126-1-22**] 11:02 PM
 MULTI LUMEN - START [**2126-1-22**] 11:22 PM
 ARTERIAL LINE - START [**2126-1-22**] 11:58 PM
 FEVER - 102.5
F - [**2126-1-22**] 09:50 PM
   History obtained from Patient, [**Hospital 228**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-23**] 05:35 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-1-23**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2126-1-23**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 35.2
C (95.4
   HR: 70 (70 - 81) bpm
   BP: 87/60(70){74/50(60) - 123/73(91)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 54 kg (admission): 50.7 kg
   CVP: 10 (8 - 30)mmHg
   Total In:
                                                                  7,861 mL
                                                                  1,372 mL
   PO:
   TF:
   IVF:
                                                                  4,061 mL
                                                                  1,372 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,325 mL
   Urine:
                                                                    500 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,361 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/38/80.[**Numeric Identifier 248**]/23/Units: mEq/L
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R, Diminished: L)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   168 K/uL
   131 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   10 mg/dL
   110 mEq/L
   139 mEq/L
   30.6 %
   18.8 K/uL
        [image002.jpg]
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
   WBC
   18.8
   Hct
   30.6
   Plt
   168
   Cr
   0.7
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   Other labs: PT / PTT / INR:15.3/40.5/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, Differential-Neuts:70.0 %, Band:23.0 %,
   Lymph:3.0 %, Mono:Units: %
   Range: [**2-4**] %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:2.2 mmol/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK) sepsis related to lithotripsy. Now on abx for
   ESBL that was in her urine pre-procedure. Still requiring levophed and
   vasopressin but gradually being tapered. Has been adequately fluid
   resuscitated - given underlying MR would be inclined to minimoze fluid
   now.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 NEPHROLITHIASIS (KIDNEY STONES) will discuss with Urology whether she
   will need additional procedures. Presumably stone is nidus of recurrent
   infection
   Anemia - chronic. Needs evaluation as an out patient. No evidence for
   acute blood loss
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-1-22**] 11:22 PM
   18 Gauge - [**2126-1-22**] 11:24 PM
   20 Gauge - [**2126-1-22**] 11:25 PM
   Arterial Line - [**2126-1-22**] 11:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45
   Patient is critically ill

2126-01-24 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned off of levophed, vasopressin remains on per protocol but MAPs
   have been fine
   - switched to morphine from toradol yesterday with excellent pain
   control, [**1-3**] this AM
 EKG - At [**2126-1-23**] 11:23 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-24**] 05:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-1-23**] 08:00 AM
   Other medications:
   Meropenem 500mg IV q6 day 3
   Hydrocortisone 100mg IV q8
   Protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain, mild R sided abd discomfort
   Flowsheet Data as of  [**2126-1-24**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 70 (70 - 70) bpm
   BP: 111/66(84){87/58(70) - 124/80(91)} mmHg
   RR: 21 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 54 kg (admission): 50.7 kg
    CVP: 12 (8 - 20)mmHg
   Total In:
                                                                  3,098 mL
                                                                    384 mL
   PO:
                                                                    160 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,938 mL
                                                                    334 mL
   Blood products:
   Total out:
                                                                  2,144 mL
                                                                    218 mL
   Urine:
                                                                  2,144 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    954 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: moist mucus membranes
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases)
   Abdominal: Soft, Bowel sounds present, Tender: R sided without rigidity
   or guarding
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   108 K/uL
   9.8 g/dL
   114 mg/dL
   0.8 mg/dL
   22 mEq/L
   5.0 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   29.4 %
   21.7 K/uL
        [image002.jpg]
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
   WBC
   18.8
   21.7
   Hct
   30.6
   29.4
   Plt
   168
   108
   Cr
   0.7
   0.8
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, Differential-Neuts:81.0 %, Band:7.0 %, Lymph:6.0
   %, Mono:4.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:2.2 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 NEPHROLITHIASIS (KIDNEY STONES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-1-22**] 11:22 PM
   18 Gauge - [**2126-1-22**] 11:24 PM
   20 Gauge - [**2126-1-22**] 11:25 PM
   Arterial Line - [**2126-1-22**] 11:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-01-24 10:45:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2126-1-23**] 11:23 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-24**] 05:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2126-1-24**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Endocrine: Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-1-24**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.4
C (95.8
   HR: 88 (70 - 88) bpm
   BP: 90/53(69){86/52(67) - 124/80(91)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 50.7 kg
   CVP: 12 (10 - 20)mmHg
   Total In:
                                                                  3,098 mL
                                                                    489 mL
   PO:
                                                                    160 mL
                                                                    125 mL
   TF:
   IVF:
                                                                  2,938 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  2,144 mL
                                                                    338 mL
   Urine:
                                                                  2,144 mL
                                                                    338 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    954 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bilat), (Breath Sounds: Crackles : R base, Bronchial: bilat lower)
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   108 K/uL
   114 mg/dL
   0.8 mg/dL
   22 mEq/L
   5.0 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   29.4 %
   21.7 K/uL
        [image002.jpg]
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
   WBC
   18.8
   21.7
   Hct
   30.6
   29.4
   Plt
   168
   108
   Cr
   0.7
   0.8
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, Differential-Neuts:81.0 %, Band:7.0 %, Lymph:6.0
   %, Mono:4.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:2.2 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK) BP improving although still somewhat below
   baseline.  Have weaned pressors.   Remains on broad abx.
 SEPSIS WITHOUT ORGAN DYSFUNCTION cultures negative to date
 NEPHROLITHIASIS (KIDNEY STONES) - awaiting urology input re future
   procedure
   TACHYCARDIA - New AF with RVR
   PULMONARY EDEMA - unclear how much is ARDS and how much CHF. Will have
   cardiology review echos and make suggestions for long term management
   HEART BLOCK
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-1-22**] 11:22 PM
   18 Gauge - [**2126-1-22**] 11:24 PM
   20 Gauge - [**2126-1-22**] 11:25 PM
   Arterial Line - [**2126-1-22**] 11:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2126-01-25 07:55:00 Physician Resident Progress Note
63F with h/o nephrolithiasis with septic shock post lithotripsy
   24 Hour Events:
   Urology came by--cannot be sure stone has resolved, just need to follow
   her
   Seen by cardiology and EP for new AFib; pacemaker was firing on the ?T
   waves and changed to DDI
   Advised to started amiodarone and metoprolol,  consider ASA.
   BP labile with episodes of SBP in 80s (not correlated with episodes of
   AFib), asymptomatic
   Continued to have brief episodes of AFib overnight
   Continued to have good urine output but unable to diurese to goal b/c
   of hypotension
   TTE done:  EF > 55%; 1+MR, [**12-26**]+TR
 EKG - At [**2126-1-24**] 10:58 AM
 TRANSTHORACIC ECHO - At [**2126-1-24**] 02:34 PM
 BLOOD CULTURED - At [**2126-1-24**] 03:11 PM
 MULTI LUMEN - START [**2126-1-24**] 04:00 PM
 ARTERIAL LINE - START [**2126-1-24**] 04:20 PM
 MULTI LUMEN - STOP [**2126-1-24**] 04:23 PM
 ARTERIAL LINE - STOP [**2126-1-24**] 04:23 PM
 EKG - At [**2126-1-25**] 12:16 AM
   Subjective
   Slept poorly [**1-26**] palpitations
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2126-1-24**] 10:00 AM
   Metoprolol - [**2126-1-24**] 11:00 AM
   Other medications:
   Meropenem 500mg IV q6 day 4
   Hydrocortisone 100mg IV q8
   Protonix
   Amiodarone 400mg PO TID x 1 week
   Metoprolol 12.5 mg PO BID
   Aspirin 325mg PO daily
   Insulin SS
   Heparin SQ
   Flowsheet Data as of  [**2126-1-25**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 116 (68 - 135) bpm
   BP: 102/69(77){81/30(61) - 114/70(77)} mmHg
   RR: 22 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Wgt (current): 57.2 kg (admission): 50.7 kg
    CVP: 7 (2 - 14)mmHg
   Telemetry: episodes of atrial fibrillation with HR to 140
s, desats to
   80
   Total In:
                                                                  1,622 mL
                                                                    328 mL
   PO:
                                                                    125 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,497 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,918 mL
                                                                    490 mL
   Urine:
                                                                  1,918 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -296 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 2L
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases)
   Abdominal: Soft, Bowel sounds present, Tender: R abd
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   110 K/uL
   9.8 g/dL
   121 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   21 mg/dL
   108 mEq/L
   137 mEq/L
   29.2 %
   25.8 K/uL
        [image002.jpg]
   CXR pending
   TTE
   The left atrium is elongated. No atrial septal defect is seen by 2D or
   color Doppler. Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%) There is no
   ventricular septal defect. The right ventricular cavity is mildly
   dilated with normal free wall contractility. The ascending aorta is
   mildly dilated. The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. There is no mitral valve
   prolapse. Mild (1+) mitral regurgitation is seen. The tricuspid valve
   leaflets are mildly thickened. There is mild pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2125-11-7**], the RV
   chamber size may be slightly smaller (not as well visualized as in the
   prior study). The degree of TR and pulmonary hypertension detected are
   slightly less.
   Micro
   [**1-22**], [**1-23**], [**1-24**] blood cx NGTD
   [**1-22**] urine negative
   [**1-15**] ESBL E. coli S to meropenem
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
                             [**2126-1-25**]  05:32 AM
   WBC
   18.8
   21.7
   25.8
   Hct
   30.6
   29.4
   29.2
   Plt
   168
   108
   110
   Cr
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   121
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:14/44, Alk Phos / T Bili:61/0.4,
   Differential-Neuts:91.0 %, Band:8.0 %, Lymph:Units: %
   Range: 18-42 %, Mono:1.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:438 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.4
   g/dL, LDH:524 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Off pressors, cultures negative to date. WBC slightly
   --Continue meropenem, reculture if febrile
 Hypotension
   --Decreased BP does not correlate clearly with incr HR.
   --Rebolus if needed
 A-fib/Arrythimia:
   --Continue amiodarone / beta blocker
   --CHADS score of 0, aspirin for stroke prevention. Will needs cards f/u
 ?h/o sick sinus
   --s/p device interrogation with pacer adjustment, will need to f/u in
   device clinic
 Volume overload
   --Diurese goal net negative 1L as BP tolerates
 Adrenal insufficiency
   --D/C stress dose steroids today
 NEPHROLITHIASIS (KIDNEY STONES)
   Per urology, will not know if stones have completely passed for several
   months.
   - Morphine prn, follow up with urology, maintain good urine output.
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-1-24**] 04:00 PM
   Arterial Line - [**2126-1-24**] 04:20 PM
   18 Gauge - [**2126-1-24**] 04:20 PM
   20 Gauge - [**2126-1-24**] 04:20 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  with son
   [**Name (NI) 66**] status: Full code
   Disposition:

2126-01-25 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2126-1-24**] 10:58 AM
 TRANSTHORACIC ECHO - At [**2126-1-24**] 02:34 PM
 BLOOD CULTURED - At [**2126-1-24**] 03:11 PM
 MULTI LUMEN - START [**2126-1-24**] 04:00 PM
 ARTERIAL LINE - START [**2126-1-24**] 04:20 PM
 MULTI LUMEN - STOP [**2126-1-24**] 04:23 PM
 ARTERIAL LINE - STOP [**2126-1-24**] 04:23 PM
 EKG - At [**2126-1-25**] 12:16 AM
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2126-1-24**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Palpitations
   Respiratory: Cough
   Flowsheet Data as of  [**2126-1-25**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 116 (68 - 135) bpm
   BP: 106/73(31){81/30(31) - 114/73(77)} mmHg
   RR: 22 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57.2 kg (admission): 50.7 kg
   CVP: 7 (3 - 14)mmHg
   Total In:
                                                                  1,622 mL
                                                                    857 mL
   PO:
                                                                    125 mL
                                                                    550 mL
   TF:
   IVF:
                                                                  1,497 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  1,918 mL
                                                                    550 mL
   Urine:
                                                                  1,918 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -296 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   few scattered, Bronchial: L base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   110 K/uL
   121 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   21 mg/dL
   108 mEq/L
   137 mEq/L
   29.2 %
   25.8 K/uL
        [image002.jpg]
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
                             [**2126-1-25**]  05:32 AM
   WBC
   18.8
   21.7
   25.8
   Hct
   30.6
   29.4
   29.2
   Plt
   168
   108
   110
   Cr
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   121
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:14/44, Alk Phos / T Bili:61/0.4,
   Differential-Neuts:91.0 %, Band:8.0 %, Lymph:Units: %
   Range: 18-42 %, Mono:1.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:438 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.4
   g/dL, LDH:524 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 SEPSIS WITHOUT ORGAN DYSFUNCTION - WBC rising, BP remains low, all cx
   are negative.  Will repeat all cx but have to worry about a focus of
   infection . Plan for torso CT, repeat cx, induce sputum, repeat LFTs/
   amylase
 NEPHROLITHIASIS (KIDNEY STONES)
   ATRIAL FIBRILLATION WITH RVR
 seen by cardiology. Started on
   amiodarone.  Still having runs of rapid response. So far not dropping
   BP when tachycardic
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2126-1-24**] 04:00 PM
   Arterial Line - [**2126-1-24**] 04:20 PM
   20 Gauge - [**2126-1-24**] 04:20 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  spoke with patient through interpreter
   Code status: Full code
   Disposition : ICU
   Total time spent:  45 m
   Patient is critically ill

2126-01-26 09:52:00 Physician Attending Progress Note
Chief Complaint: Septic shock from urinary source.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo female admitted after HOTN following lithotripsy, c/w urosepsis,
   c/b AFIB, converted to sinus on amiodarone.  Off pressors.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2126-1-25**] 08:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-26**] 05:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Hep s/q
   protonix
   ssI
   amiodarone
   lopressor
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Edema, No(t) Tachycardia
   Flowsheet Data as of  [**2126-1-26**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 61 (61 - 64) bpm
   BP: 117/74(83){55/31(37) - 122/88(96)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Wgt (current): 57.2 kg (admission): 50.7 kg
   CVP: 7 (5 - 13)mmHg
   Total In:
                                                                  1,490 mL
                                                                    228 mL
   PO:
                                                                    650 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                  2,190 mL
   Urine:
                                                                  1,020 mL
                                                                  2,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                 -1,962 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   107 K/uL
   87 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   28.3 %
   18.2 K/uL
        [image002.jpg]
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
                             [**2126-1-25**]  05:32 AM
                             [**2126-1-26**]  03:58 AM
   WBC
   18.8
   21.7
   25.8
   18.2
   Hct
   30.6
   29.4
   29.2
   28.3
   Plt
   168
   108
   110
   107
   Cr
   0.7
   0.8
   0.7
   0.6
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   121
   87
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:14/44, Alk Phos / T Bili:61/0.4,
   Differential-Neuts:85.3 %, Band:Units: %
   Range: 0-5 %, Lymph:12.2 %, Mono:2.3 %, Eos:0.1 %, Fibrinogen:438
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.4 g/dL, LDH:524 IU/L, Ca++:7.9
   mg/dL, Mg++:1.8 mg/dL, PO4:1.2 mg/dL
   Imaging: CT torso yesterday with R pyelo, small fragments in ureter.
   CXR with ? partial RLL collapse
   Assessment and Plan
 HYPOTENSION:  Much Improved, off pressors. secondary to urosepsis
 SEPSIS: Improved
 NEPHROLITHIASIS (KIDNEY STONES)
   AFIB:  Well controlled on Amio and lopressor
   SOB:  Has some LL collapse on CXR contributing to SOB.  Incentive
   spirometry every hour.
   Thrombocytopenia:  likely due to sepsis.  Stable
   ICU Care
   Nutrition:
   Comments: Taking good POs.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-1-24**] 04:00 PM
   20 Gauge - [**2126-1-24**] 04:20 PM
   Comments: Can D/C central line.  Is in for a PIC line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  35 minutes

2126-01-26 11:11:00 Physician Resident Progress Note
63F with hypotension following lithotripsy likely urosepsis
   24 Hour Events:
   DC'd steroids
   CT torso - no evidence of absecess or pneumonia. findings c/w R sided
   pyelo
   Patient reports decrease SOB, no CP. Has been in sinus rhythm for 24
   hours.  Arterial line removed.
 ARTERIAL LINE - STOP [**2126-1-25**] 08:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2126-1-26**] 05:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Meropenem 500mg IV q6 day 5
   Protonix
   Amiodarone 400mg PO TID x 1 week
   Metoprolol 12.5 mg PO BID
   Aspirin 325mg PO daily
   Insulin SS
   Heparin SQ
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Palpitations
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2126-1-26**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 64) bpm
   BP: 108/66(76){55/31(37) - 122/88(96)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 97%
   Heart rhythm: A Paced
   Wgt (current): 57.2 kg (admission): 50.7 kg
    CVP: 8 (6 - 13)mmHg
   Total In:
                                                                  1,490 mL
                                                                    311 mL
   PO:
                                                                    650 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                  2,240 mL
   Urine:
                                                                  1,020 mL
                                                                  2,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                 -1,929 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   Resting comfortably, talking
   MMM, anicteric
   rrr s1/s2 no mrg
   crackles B to mid lung fields, no bronchial breath sounds or wheezes
   abd +BS, soft, no TTP, rebound or guarding
   UE warm with trace edema, good pulses
   LE warm, no edema, good pulses
   Foley in place draining clear yellow urine
   R SC line, L ac peripheral
   Labs / Radiology
   107 K/uL
   9.2 g/dL
   87 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.3 mEq/L
   16 mg/dL
   107 mEq/L
   145 mEq/L
   28.3 %
   18.2 K/uL
        [image002.jpg]
   CT Torso:
   1. Findings consistent with right-sided pyelonephritis with ureteral
   stent in place.  Small stone fragments in the collecting system and
   distal right ureter.
   2.  Large bilateral pleural effusions, ascites, anasarca.
   3.  Hypodense hepatic and renal lesions (in addition to findings of
   pyelonephritis), too small to characterize.
   Micro
   [**1-25**] stool c. difficile pending
   [**1-22**], [**1-23**], 1/31,[**1-25**] blood cx NGTD
   [**1-22**] urine negative
   [**1-15**] ESBL E. coli S to meropenem
                             [**2126-1-22**]  10:43 PM
                             [**2126-1-23**]  02:15 AM
                             [**2126-1-23**]  04:51 AM
                             [**2126-1-24**]  04:15 AM
                             [**2126-1-25**]  05:32 AM
                             [**2126-1-26**]  03:58 AM
   WBC
   18.8
   21.7
   25.8
   18.2
   Hct
   30.6
   29.4
   29.2
   28.3
   Plt
   168
   108
   110
   107
   Cr
   0.7
   0.8
   0.7
   0.6
   TropT
   <0.01
   TCO2
   25
   Glucose
   131
   114
   121
   87
   Other labs: PT / PTT / INR:16.2/51.4/1.4, CK / CKMB /
   Troponin-T:59/3/<0.01, ALT / AST:14/44, Alk Phos / T Bili:61/0.4,
   Differential-Neuts:85.3 %, Band:Units: %
   Range: 0-5 %, Lymph:12.2 %, Mono:2.3 %, Eos:0.1 %, Fibrinogen:438
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.4 g/dL, LDH:524 IU/L, Ca++:7.9
   mg/dL, Mg++:1.8 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   63F who presented with hypotension s/p lithotripsy, on meropenem for
   urosepsis, initally requiring pressors, developed A-fib, controlled
   with amiodarone and metoprolol, no arrythmia overnight.
   1.  Urosepsis:  Day 5 of meropenem.   Patient mentating clearly,
   continues to have good urine output. WBC trending down today. Cultures
   negative/pending since E. coli isolate
   -PICC line today for long-term antibiotics, will pull central line once
   PICC is placed
   -culture central line tip after removal, follow up cultures and
   reculture if febrile
   -continue with current goals of MAP > 65, CVP 8-12 and monitor urine
   output, bolus as necessary
   2.  Fluid overload: Decreased oxygen requirements though still volume
   overloaded in setting of aggressive fluid resuscitation for septic
   shock. Continue diuresis goal negative 1-2 L as Bp tolerates.
   3.  A-fib, pacer:  Continue metoprolol and amiodarone, aspirin for ppx.
   Will follow up with cardiology and device clinic.
   5.  Thrombocytopenia:  Platelets 180 at admission, 107 today. Likely
   [**1-26**] sepsis. Had similar drop with prior septic episode.  No clinical
   signs/sx of thrombosis. Follow.
   6.  Adrenal Insufficency: s/p Stress dose steroids, now off
   7.  Renal Caliculi:  per urology, they will not know if stones have
   passed for several months
   -follow urine output, morphine prn pain
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2126-1-24**] 04:00 PM
   20 Gauge - [**2126-1-24**] 04:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  with son, see admit note
   Code status: Full code
   Disposition:Transfer to floor